* Single BVM → QB — Simplest Link Test
* Original from circuits/ref/spice/
.include ../../../circuits/models/jjmit.cir
.include ../../../circuits/bvm/bvm_cell.cir
.include ../../../circuits/qb/bq_cell.cir

XBQ    QB_IN OUT_Q IBIAS_Q BQ
R_LOAD_Q OUT_Q 0 3
I_IBIAS_Q 0 IBIAS_Q pwl(0 0 1p 180u)

I1 0 QB_IN pulse(0 200u 10p 1p 1p 5p 50p)


.tran 0.1p 500p
.print I(RB|XBQ) I(Lin|XBQ) v(2|XBQ) v(4|XBQ) p(BJs|XBQ) p(BJL1|XBQ) p(BJL2|XBQ) V(OUT_Q) I(R_LOAD_Q)
.end
