* Standalone Validation: sfq_gen_clk (L_OUT=0.3pH)
* Tests 5 triggers → 5 clean SFQ pulses with 12Ω load
.include ../../../circuits/models/jjmit.cir
.include ../../../circuits/sfq_gen_clk.cir


XSFQ CLK_RAW SFQ_OUT V_BIAS sfq_gen_clk
V_BIAS V_BIAS 0 DC 1.67m
V_TRIG CLK_RAW 0 pulse(0 0.75m 20p 1p 1p 5p 50p)
R_LOAD SFQ_OUT 0 12

.tran 0.2p 220p 0 0.4p 0 DST
.print V(CLK_RAW) V(SFQ_OUT)
.print P(B0|XSFQ)
.end
