* ============================================================
* Experiment 6: BVM → Custom SFQ Generator (single-JJ, IC tuned to BVM output)
* Date: 2026-07-17
* Strategy: Trim sfq_gen JJ IC to ~70uA (area=0.70), bias at 70% (49uA)
* BVM SL drives trigger. Expected: at least 1 SFQ per read operation
* ============================================================

.include ../../../circuits/models/jjmit.cir
.include ../../../circuits/bvm/bvm_cell.cir

* ============ BVM Cell ============
XBVM1 WL1 BL1 SE1 SL1 BVM

* ============ SL Load (8×jjmit, area=5 for higher current) ============
B_LD1  SL1   nld1  jjmit area=5
B_LD2  nld1  nld2  jjmit area=5
B_LD3  nld2  nld3  jjmit area=5
B_LD4  nld3  nld4  jjmit area=5
B_LD5  nld4  nld5  jjmit area=5
B_LD6  nld5  nld6  jjmit area=5
B_LD7  nld6  nld7  jjmit area=5
B_LD8  nld7  nld8  jjmit area=5

* ============ Custom Single-JJ SFQ Generator ============
* JJ tuned to BVM output: IC=70uA (area=0.70)
* Bias: 49uA (70% of IC) via 6.8Ω resistor: V=49u*6.8=0.33mV
* BVM SL output connected to trigger through 5Ω
B_SFQ  N_J    0      jjmit area=0.70
R_BIAS V_BIAS N_J   6.8
R_TRIG nld8    N_J   5
L_OUT  N_J    SFQ_OUT 0.3p
V_BIAS V_BIAS 0     DC 0.33m

* ============ Output Load JTL ============
.include ../../../circuits/standard/JTL.cir
XLOAD SFQ_OUT SFQ_FINAL THmitll_JTL
R_TERM SFQ_FINAL 0 1

* ============ BVM Write/Read Sequence ============
I_WL1 0 WL1 pwl(0 0 9p 0
+ 10p 100U  20p 100U  21p 0
+ 30p 0 31p 100U  40p 100U  41p 0
+ 60p 0 61p -100U 70p -100U 71p 0
+ 80p 0 81p 100U  90p 100U  91p 0
+ 110p 0)

I_BL1 0 BL1 pwl(0 0 9p 0
+ 10p 100U  20p 100U  21p 0
+ 30p 0 41p 0
+ 60p 0 61p -100U 70p -100U 71p 0
+ 80p 0 91p 0
+ 110p 0)

I_SE1 0 SE1 pwl(0 0
+ 30p 0 31p 100U  40p 100U  41p 0
+ 80p 0 81p 100U  90p 100U  91p 0
+ 110p 0)

.tran 0.1p 110p

.print P(B_JM1|XBVM1)
.print I(L_SL|XBVM1) V(SL1) V(nld8)
.print P(B_SFQ) V(SFQ_OUT)
.print P(B1|XLOAD) P(B2|XLOAD)
.end
